US08017644B2
h) 5-amino-2-phenyl-1-cyclohexylindole
To a suspension of 1-cyclohexyl-2-(4-methylphenyl)-5-nitro-1H-indole (45 mg; 0.13 mmol) in absolute ethanol (5 ml) was added stannous chloride dihydrate (152 mg; 0.67 mmol) and the mixture was left under stirring at 70° C. for 18 hours. The reaction mixture was cooled to room temperature and then poured into H2O and ice (20 ml), NaHCO3 (saturated solution) was added to pH 8 and the mixture was left under stirring for 20 minutes.

reactant | 1-cyclohexyl-2-(4-methylphenyl)-5-nitro-1H-indole | 0.13 mmol, 45 mg | C1(CCCCC1)N1C(=CC2=CC(=CC=C12)[N+](=O)[O-])C1=CC=C(C=C1)C | C21H22N2O2
reactant | H2O | O | H2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 5-amino-2-phenyl-1-cyclohexylindole | NC=1C=C2C=C(N(C2=CC1)C1CCCCC1)C1=CC=CC=C1 | C20H22N2
